US08426420B2
vii) 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 4.5 g 5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 105 ml DMF were added 4.4 g HATU and 1.9 ml DIPEA. After 10 minutes 1.0 ml cyclobutylamine was added and after 30 minutes the reaction mixture was concentrated. The residue was taken up in dichloromethane and extracted with aqueous LiCl (4%), 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using ethyl acetate/heptane 4:1 as eluent. Yield: 3.2 g colorless oil.

reactant | 5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 4.5 g | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | C19H21N3O6
reactant | HATU | 4.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclobutylamine | 1.0 ml | C1(CCC1)N | C4H9N
solvent | DMF | 105 ml | CN(C)C=O | C3H7NO
product | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1 | C23H28N4O5
